US07897595B2
A mixture of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H -pyrido[2,3-d]azepin-3-amine (455 mg, 1.5 mmol), acetaldehyde (253 μl, 4.50 mmol) and 5% Pd/C (23.0 mg) in EtOH (18 ml) was subjected to H2 (50 psi) for 16 h at room temperature. The reaction mixture was filtered, concentrated under reduced pressure and purified by column chromatography to provide 280 mg (56%) of N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H NMR (CDCl3) δ 6.47 (1H), 4.03 (0.5H), 3.88 (5H), 3.71 (0.5H), 3.43 (1H), 3.64 (3H), 2.98 (2H), 1.20 (6H) ppm. A mixture of of N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (331 mg, 1.00 mmol), K2CO3 (415 mg, 3.00 mmol), MeOH (13 ml) and H20 (2.7 ml) was stirred for 16h at room temperature. After removal of solvent under reduced pressure, the mixture was taken into aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated in vacuo to give 204 mg (87%) of N-ethyl-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR (CDCl3) δ 6.48 (s, 1H), 3.87 (s, 3H), 3.80 (br s, 1H), 3.10-2.70 (m, 9H), 2.48 (br s, 1H), 1.26 (d, 3H), 1.24 (t, 3H) ppm.

reactant | N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 1.00 mmol, 331 mg | C(C)NC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC | C15H20F3N3O2
reactant | K2CO3 | 3.00 mmol, 415 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 13 ml | CO | CH4O
product | N-ethyl-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 204 mg, 87% | C(C)NC1=CC2=C(CCNCC2C)N=C1OC | C13H21N3O
